US09371292B2
Starting material: N4-(5-chlorobenzo[d][1,3]dioxol-4-yl)-7-methoxyquinazoline-4,6-diamine was prepared according to the same method of preparation of N4-(3-chloro-4-fluorophenyl)-7-(2-methoxy)ethoxyquinazoline-4,6-diamine in WO2008/33747, but the starting material were 4-chloro-7-methoxy-6-nitroquinazoline and 5-chlorobenzo[d][1,3]dioxolan-4-amine; other starting materials were prepared as example 1.

reactant | N4-(3-chloro-4-fluorophenyl)-7-(2-methoxy)ethoxyquinazoline-4,6-diamine | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)N)OCCOC | C17H16ClFN4O2
reactant | 4-chloro-7-methoxy-6-nitroquinazoline | ClC1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])OC | C9H6ClN3O3
reactant | 5-chlorobenzo[d][1,3]dioxolan-4-amine | ClC1=C(C2=C(OCO2)C=C1)N | C7H6ClNO2
product | N4-(5-chlorobenzo[d][1,3]dioxol-4-yl)-7-methoxyquinazoline-4,6-diamine | ClC1=C(C2=C(OCO2)C=C1)NC1=NC=NC2=CC(=C(C=C12)N)OC | C16H13ClN4O3
